Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Adhesive
 
Attending: ___
 
Chief Complaint:
ventral hernia
 
Major Surgical or Invasive Procedure:
Open ventral hernia repair with mesh- Dr. ___ ___

 
History of Present Illness:
___ gentleman with a spontaneous epigastric hernia.  He 
has had it for years; however, recently it has incarcerated 3 
times and was barely able to be reduced.  He now wishes to have 
it repaired.

 
Past Medical History:
 - HTN
 - CAD without h/o MI
 - Bradycardia
 - Hyperlipidemia
 - Multiple basal cell and squamous cell skin cancers
 - Depression
 -appendectomy
 - inguinal herniorrhaphy

 
Social History:
___
Family History:
NC
 
Physical Exam:
98.5 62 115/67 18 99RA
Gen: well-appearing gentleman, NAD
HEENT: PERRL, MMM
Card: RRR, no r/m/g
Resp: CTAB
Abd: abdominal binder in place, when taken off a fluctuant fluid 
collection under incision is palpated, incision c/d/i w/ 
dermabond, some diffuse erythema and yellowing of skin around 
incision, overlying area of fluctuance and spreading out from 
it, without clearly defined borders, non-blanching
Extrem: wwp, no c/c/e
 
Pertinent Results:
Postoperative laboratory results:
___ 06:10AM BLOOD Glucose-81 UreaN-16 Creat-1.0 Na-139 
K-4.1 Cl-103 HCO3-27 AnGap-13
___ 06:10AM BLOOD Calcium-9.6 Phos-3.4 Mg-1.8
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD WBC-7.8 RBC-4.77 Hgb-14.4 Hct-40.2 MCV-84 
MCH-30.3 MCHC-35.9* RDW-13.7 Plt ___
 
Brief Hospital Course:
Dr. ___ presented to ___ holding at ___ on ___ 
for an elective ventral hernia repair with mesh. He tolerated 
the procedure well without complications (Please see operative 
note for further details). After a brief and uneventful stay in 
the PACU, the patient was transferred to the floor for further 
post-operative management. 

Neuro: Dr. ___ was controlled with pain medications 
by mouth.
CV: He continued ASA and all home medications for h/o CAD, HTN 
and hyperlipidemia.  He was given a regular low sodium diet.  He 
did experience some bradycardia to low ___, and on the evening 
of POD1, he experienced some mild lightheadedness.  Orthostatic 
testing was done and was negative.  We discussed holding his 
beta blocker, but he insisted on taking it for h/o afib.  His HR 
remained regular.
Pulm: CTAB. Used IS and ambulated early and frequently.
GI: Passed flatus and and diet advanced as tolerated to regular 
low sodium.
GU: Failed to void postoperatively and foley catheter placed for 
urinary retention.  Hematuria and suspected traumatic foley 
placement.  Pryidium given for bladder spasm, flomax and he was 
sent home with flomax and foley after leg bag teaching, and 
given instructions for follow up with urology.  He will contact 
PCP to obtain referral for urologist closer to home, and was 
also given phone number for our urology colleagues in ___.
ID: Ancef postop for prophylaxis, and continued for a total 13 
day course for suspected hematoma, to help prevent infection, 
given that he did have a mesh repair.
Heme: Mild chronic thrombocytopenia noted.  Subcutaneous heparin 
administered postoperatively for DVT/PE prophylaxis.

On ___, Dr. ___ was discharged to home with ___ 
services with his wife. At discharge, he was tolerating a 
regular diet, passing flatus, voiding, and ambulating 
independently. He will ___ in the next week with Dr. 
___ was encouraged to also call his PCP for ___ 
appointment in the next week as well, and to request a referral 
to a urologist closer to home. This information was communicated 
to the patient directly prior to discharge, and an email was 
sent to his PCP. 

Include in Brief Hospital Course for Every Patient and check of 
boxes that apply:
Post-Surgical Complications During Inpatient Admission:
[ ] Post-Operative Ileus resolving w/o NGT
[ ] Post-Operative Ileus requiring management with NGT
[ ] UTI
[ ] Wound Infection
[ ] Anastomotic Leak
[ ] Staple Line Bleed
[ ] Congestive Heart failure 
[ ] ARF
[ ] Acute Urinary retention, failure to void after Foley D/C'd
[x] Acute Urinary Retention requiring discharge with Foley 
Catheter
[ ] DVT
[ ] Pneumonia
[ ] Abscess
[ ] None

Social Issues Causing a Delay in Discharge:
[ ] Delay in organization of ___ services
[ ] Difficulty finding appropriate rehabilitation hospital 
disposition.
[ ] Lack of insurance coverage for ___ services
[ ] Lack of insurance coverage for prescribed medications.
[ ] Family not agreeable to discharge plan.
[ ] Patient knowledge deficit related to ileostomy delaying 
discharge. 
[x] No social factors contributing in delay of discharge.
 
Medications on Admission:
Aspirin 81 mg PO DAILY  
Chlorthalidone 25 mg PO DAILY  
Metoprolol Succinate XL 12.5 mg PO DAILY  
Lisinopril 10 mg PO DAILY  
Omeprazole 20 mg PO DAILY  
Simvastatin 40 mg PO QPM  
Spironolactone 12.5 mg PO DAILY  
Nitroglycerin dosage uncertain SL PRN chest pain
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Aspirin 81 mg PO DAILY 
3. Cephalexin 250 mg PO Q6H Duration: 10 Days 
RX *cephalexin [Keflex] 250 mg 1 capsule(s) by mouth every six 
(6) hours Disp #*40 Capsule Refills:*0
4. Chlorthalidone 25 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
6. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*60 Capsule Refills:*0
7. Metoprolol Succinate XL 12.5 mg PO DAILY 
8. Lisinopril 10 mg PO DAILY 
9. Omeprazole 20 mg PO DAILY 
10. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*30 Tablet Refills:*0
11. Simvastatin 40 mg PO QPM 
12. Spironolactone 12.5 mg PO DAILY 
13. Tamsulosin 0.4 mg PO DAILY 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth DAILY Disp #*60 
Capsule Refills:*0
14. Nitroglycerin SL 0.3 mg SL PRN chest pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
ventral hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
VENTRAL HERNIA REPAIR POST-OPERATIVE INSTRUCTIONS
.
1. You can shower (no bathing) whenever you like. 
2. Avoid strenuous exercise after your surgery.  Resume physical 
activity when site of surgery does not hurt without pain 
medication performing said activity.
3. Consume a diet with plenty of non caffienated fluids, and 
plenty of fiber. Consider use of a fiber supplement like Konsyl, 
Metamucil, Benefiber or Citrucel. All these measures will 
prevent constipation and thus straining. 
4. You can perform all your acitvities of daily living. AVOID 
lifting weights heavier than 30lbs for a total duration of 6 
weeks after surgery. Please note chronic cough, chronic 
constipation, excessive lifting of heavy weights and weight gain 
predispose to recurrence of hernia.
 
Followup Instructions:
___